US05350751
a) Methyl 2-bromomethylbenzoxazole-4-carboxylate
453 mg (2.37 mmol) of methyl 2-methylbenzoxazole-4-carboxylate (prepared by the method in J. Heterocyclic Chem. 27, 335 (1990)) are dissolved in 40 ml of chlorobenzene, 421 mg (2.37 mmol) of NBS and 20 mg of benzoyl peroxide are added, and the resulting mixture is refluxed for 2 hours. It is concentrated, and the residue is taken up in ethyl acetate, extracted by shaking with saturated NaHCO3, 10% strength Na2SO3 and saturated NaCl solution and dried over Na2SO4. Concentration and chromatography on SiO2 with n-heptane-ethyl acetate (2:1) yields 128 mg of the title compound.

reactant | methyl 2-methylbenzoxazole-4-carboxylate | 2.37 mmol, 453 mg | CC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C10H9NO3
reactant | NBS | 2.37 mmol, 421 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chlorobenzene | 40 ml | ClC1=CC=CC=C1 | C6H5Cl
product | Methyl 2-bromomethylbenzoxazole-4-carboxylate | 128 mg | BrCC=1OC=2C(N1)=C(C=CC2)C(=O)OC | C10H8BrNO3
